US06730690B2
Preparation of 1-(4-Chlorophenyl)cyclobutanecarbohydrazide
Anhydrous hydrazine (2.02 mL, 1.4 eq) was dissolved in acetonitrile (100 μL) and cooled to 0° C. Triethylamine (12.8 mL, 2.0 eq.) was added followed by 1-(4-chlorophenyl)cyclobutanecarbonyl fluoride (10 g, 1.0 eq) in acetonitrile (25 mL). After stirring at room temperature for one hour the acetonitrile was removed by evaporation. Product was obtained after silica gel chromatography.

reactant | hydrazine | 2.02 mL, 1.4 eq | NN | H4N2
reactant | Triethylamine | 12.8 mL, 2.0 eq. | C(C)N(CC)CC | C6H15N
reactant | 1-(4-chlorophenyl)cyclobutanecarbonyl fluoride | 10 g, 1.0 eq | ClC1=CC=C(C=C1)C1(CCC1)C(=O)F | C11H10ClFO
solvent | acetonitrile | 100 μL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(4-Chlorophenyl)cyclobutanecarbohydrazide | ClC1=CC=C(C=C1)C1(CCC1)C(=O)NN | C11H13ClN2O
